US04024164
4-Benzoyloxy-2-butenyl palmitate
4-Benzoyloxy-2-butenyl palmitate was prepared by the procedure of Example 1 from 19 gms (0.1 mole) of 4-hydroxy-2-butenyl benzoate and 26 gms (0.1 mole) of palmitoyl chloride. The structure of the final product was characterized on the basis of NMR and IR spectral analyses as described in Example 1.

reactant | 4-hydroxy-2-butenyl benzoate | 0.1 mole, 19 gms | C(C1=CC=CC=C1)(=O)OCC=CCO | C11H12O3
reactant | palmitoyl chloride | 0.1 mole, 26 gms | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
product | 4-Benzoyloxy-2-butenyl palmitate | C(CCCCCCCCCCCCCCC)(=O)OCC=CCOC(C1=CC=CC=C1)=O | C27H42O4
